US04262004
A mixture of 11 parts of 2,3-dihydro-6-nitroimidazo[2,1-b]benzothiazole and 80 parts of methanol is hydrogenated at normal pressure and at room temperature with 5 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is crystallized from dimethylbenzene. The product is filtered off and dried, yielding 5.6 parts of 2,3-dihydroimidazo[2,1-b]benzothiazol-6-amine; mp. 204°-210° C.

reactant | 2,3-dihydro-6-nitroimidazo[2,1-b]benzothiazole | [N+](=O)([O-])C=1C=CC2=C(N3C(S2)=NCC3)C1 | C9H7N3O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2,3-dihydroimidazo[2,1-b]benzothiazol-6-amine | N=1CCN2C1SC1=C2C=C(C=C1)N | C9H9N3S
